US04263037
(a) 2-Methoxy-α,α-dimethylbenzylcyanide
By a method analogous to that of Example 3(a), o-methoxybenzyl cyanide was methylated with methyl iodide and sodium hydride in dimethylformamide to give the desired compound in 85% yield.

reactant | o-methoxybenzyl cyanide | COC1=C(CC#N)C=CC=C1 | C9H9NO
reactant | methyl iodide | CI | CH3I
reactant | sodium hydride | [H-].[Na+]
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | 2-Methoxy-α,α-dimethylbenzylcyanide | 85% yield | COC1=C(C(C)(C)C#N)C=CC=C1 | C11H13NO
